US07285557B2
4-[{2-[4-(6-(4-chlorophenyl)-4-oxothieno[3,2-d]pyrimidin -3(4H)-yl)-2-methoxyphenoxy]ethyl}(methyl)amino]benzonitrile
To a solution of 6-(4-chlorophenyl)-3-(4-hydroxy-3-methoxyphenyl)thieno[3,2-d]pyrimidin4(3H)-one (96 mg, 0.25 mmol, the preparation of which can be found in the section detailing the preparation of Example K1) in DMF was added 2-[4-cyano(methyl)anilino]ethyl p-toluenesulfonate (165 mg, 0.50 mmol) and cesium carbonate (0.24 g, 0.75 mmol) and the mixture was stirred with heating at 75° C. for 12 h. The reaction was allowed to cool and 10 mL solution of 20% water/ethanol was added. The resulting precipitate was filtered and dried in a vacuum oven to give the title compound (133 mg, 98%). 1H NMR (DMSO-D6) δ 3.10 (3H, s), 3.76 (3H, s), 3.87 (2H, t, J=3.7 Hz), 4.21 (2H, t, J=3.7 Hz), 6.87 (1H, d, J=7.3 Hz), 7.02-7.20 (3H, m), 7.58 (4H, m), 7.99 (3H, m), 8.38 (1H, s). LCMS m/z=543 (m+H+). Calcd. for C29H23ClN4O3S×1HCl: C, 60.11; H, 4.17; N; 9.67. Found: C, 59.78; H, 4.18; N, 9.44.

reactant | 6-(4-chlorophenyl)-3-(4-hydroxy-3-methoxyphenyl)thieno[3,2-d]pyrimidin4(3H)-one | ClC1=CC=C(C=C1)C1=CC=2N=CN(C(C2S1)=O)C1=CC(=C(C=C1)O)OC | C19H13ClN2O3S
reactant | 2-[4-cyano(methyl)anilino]ethyl p-toluenesulfonate | 0.50 mmol, 165 mg | C1(=CC=C(C=C1)S(=O)(=O)OCCN(C1=CC=C(C=C1)C#N)C)C | C17H18N2O3S
reactant | cesium carbonate | 0.75 mmol, 0.24 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | water ethanol | O.C(C)O
solvent | DMF | CN(C)C=O | C3H7NO
product | 4-[{2-[4-(6-(4-chlorophenyl)-4-oxothieno[3,2-d]pyrimidin -3(4H)-yl)-2-methoxyphenoxy]ethyl}(methyl)amino]benzonitrile | 133 mg, 98% | ClC1=CC=C(C=C1)C1=CC=2N=CN(C(C2S1)=O)C1=CC(=C(OCCN(C2=CC=C(C#N)C=C2)C)C=C1)OC | C29H23ClN4O3S
